* R5.1 vendor bench - CORRECTED TOPOLOGY (low-side shared shunt, differential Kelvin)
* R5p1_stab_neg2V_1k_100p_Riso47 | shunt 500 Vc 5 -> Ilim 0.0uA equiv | DUT 1k C 100p Riso 47 Vset -2
V1 VEE 0 -12
V2 VMINUS 0 -12
V3 VCC 0 12
V4 VPLUS 0 12
Vset IN 0 PULSE(0 -2 1u 0.1u 0.1u 20u 40u)
Vcsrc VCSRC 0 5
Vcsnk VCSNK 0 5
Vcom COM 0 0
Vlogic VLOGIC 0 3.3
Ven EN 0 5
XU1 VEE VMINUS OUT FORCE_LO FILTER 0 VCC NDIF_F IN NC10 NC11 VCSNK VCSRC COM EN N_ISRC N_ISNK NC18 VPLUS LT1970
* Power path
Riso OUT FORCE_HI 47
Rdut FORCE_HI FORCE_LO 1k
Cdut FORCE_HI FORCE_LO 100p
Rshunt FORCE_LO 0 500
Cshunt FORCE_LO 0 10p  ; parasitic
* Sense across shunt
* SENSEP already FORCE_LO via X mapping? Actually SENSEP net is FORCE_LO, SENSEM is 0 (GND) per X: SENSEP=FORCE_LO, SENSEM=0
* Filter cap
* Cfilter FILTER (DNP - FILTER open baseline per errata 2026-08-25; provision 1nF-100nF per 1970afc) ; Cfilter FILTER SENSEM 220p
* Differential Kelvin: FORCE_HI vs FORCE_LO -> NDIF -> pole 1k/15p ~10MHz -> NDIF_F -> -IN
Ediff NDIF 0 FORCE_HI FORCE_LO 1
Rpole NDIF NDIF_F 1k
Cpole NDIF_F 0 15p
* Flags pullup
Risrc VLOGIC N_ISRC 10k
Risnk VLOGIC N_ISNK 10k
* NCs
Rnc10 NC10 0 1Meg
Rnc11 NC11 0 1Meg
Rnc18 NC18 0 1Meg
.lib C:\Users\azrai\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 50u 0 10n
.meas tran Vpeak MAX V(FORCE_HI,FORCE_LO) FROM 0 TO 22u
.meas tran Vfinal AVG V(FORCE_HI,FORCE_LO) FROM 12u TO 20u
.meas tran Vmin MIN V(FORCE_HI,FORCE_LO) FROM 0 TO 22u
.meas tran Overshoot PARAM (Vpeak-Vfinal)/abs(Vfinal+1e-12)*100
.meas tran Undershoot PARAM (Vfinal-Vmin)/abs(Vfinal+1e-12)*100
.meas tran Iplateau AVG I(Rshunt) FROM 12u TO 20u
.meas tran Vshunt AVG V(FORCE_LO) FROM 12u TO 20u
.meas tran Ipeak MAX I(Rshunt) FROM 0 TO 22u
.meas tran Vdut_final AVG V(FORCE_HI,FORCE_LO) FROM 12u TO 20u
.lib LT1970.sub
.backanno
.end
